US04178449
3-Bromo-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
To a 0.01 mole sample of 7-(α,α,α-trifluoro-m-tolyl)-pyrazolo [1,5-a]pyrimidine in 50 ml. of dichloromethane is added 0.01 mole of bromine. After standing, the mixture is worked up as for Example 15 to give the product as crystals, m.p. 138°-140° C.

reactant | 7-(α,α,α-trifluoro-m-tolyl)-pyrazolo [1,5-a]pyrimidine | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2)(F)F | C13H8F3N3
reactant | bromine | 0.01 mole | BrBr | Br2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Bromo-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C13H7BrF3N3
